US08937150B2
bis(3-bromophenyl)methanone
MnO2 (21.61 g, 249 mmol) was added to a solution of bis(3-bromophenyl)methanol (8.4 g, 24.5 mmol) in dichloromethane (80 mL). The mixture was stirred at 25° C. for 12 h and then filtered. The filter cake was washed with dichloromethane (60 mL×5). The filtrate was concentrated to afford 7.6 g of the title compound (22.3 mmol, 90%). LC/MS: [M+1]=341. 1H NMR (DMSO-d6), 400 MHz: δ 7.52-7.56 (m, 2H), 7.71 (d, 2H, J=7.2 Hz), 7.88-7.92 (m, 4H).

reactant | bis(3-bromophenyl)methanol | 24.5 mmol, 8.4 g | BrC=1C=C(C=CC1)C(O)C1=CC(=CC=C1)Br | C13H10Br2O
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
catalyst | MnO2 | 249 mmol, 21.61 g | O=[Mn]=O
product | bis(3-bromophenyl)methanone | 22.3 mmol, 7.6 g, 90% | BrC=1C=C(C=CC1)C(=O)C1=CC(=CC=C1)Br | C13H8Br2O
